* Netlist gerada automaticamente a partir do circuit.json
.tran 1

V1 N001 0 15
R2 N003 0 150k
R3 N001 N002 120k
R4 N001 N003 82k
R5 N002 0 12
R1 N003 N002 25k

.end